US05284852
2-Butyl-6-(1-hydroxy-1-methylethyl)-4(1H)-quinazolinone
To a solution of 0.075 g of methyl 2-butyl-1,4-dihydro-4-oxo-6-quinazolinecarboxylate in 5 ml of dry tetrahydrofuran, cooled to 0° C., is added dropwise 0.51 mol of a solution of 3.0M methylmagnesium bromide in diethyl ether. The reaction is stirred at 0° C. for 0.5 hours and then at room temperature for 1 hour followed by quenching with 10 ml of saturated ammonium chloride solution. The resulting reaction mixture is diluted with 10 ml of water and extracted with ethyl acetate. The combined organics are dried over magnesium sulfate, filtered and concentrated in vacuo. The residue is purified by flash chromatography on silica gel, eluting with 100:0.25 chloroform-methanol to yield 0.055 g of the desired product as a white solid, m.p. 190°-192° C.

reactant | methyl 2-butyl-1,4-dihydro-4-oxo-6-quinazolinecarboxylate | 0.075 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C(=O)OC | C14H16N2O3
reactant | methylmagnesium bromide | 3.0M | C[Mg]Br
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 2-Butyl-6-(1-hydroxy-1-methylethyl)-4(1H)-quinazolinone | 0.055 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C(C)(C)O | C15H20N2O2
